US07687529B2
To 2-fluoroaniline (1.55 g, 13.9 mmol) in anhydrous dimethylformamide (10 mL) was added sodium hydride (0.56 g, 13.9 mmol) and the reaction stirred for 10 minutes prior to the addition of 2,6-difluoronitrobenzene (2 g, 15.5 mmol) dissolved in anhydrous dimethylformamide (2 mL). Upon disappearance of 2-fluoroaniline the reaction was partitioned between saturated ammonium chloride (50 mL) and ethyl acetate (50 mL) and the organics were dried over sodium sulfate. The product was purified on silica gel using the ISCO (0-70% ethyl acetate/hexane) to give (3-Fluoro-2-nitro-phenyl)-(2-fluoro-phenyl)-amine as a slightly impure off-white solid (1.5 g, 43%). (3-Fluoro-2-nitro-phenyl)-(2-fluoro-phenyl)-amine (1.5 g, 6 mmol) and a spatula tip of 5% Pd/C in methanol (100 mL) were reduced in the parr shaker. Upon complete reduction, the reaction was filtered through a pad of celite and concentrated onto silica gel. The product was purified on silica gel using the ISCO (0-70% ethyl acetate/hexane) to give 3-fluoro-N1-(2-fluorophenyl)benzene-1,2-diamine as a brown oil (0.5 g, 38%). MS (ES) m/z 221.1

reactant | (3-Fluoro-2-nitro-phenyl)-(2-fluoro-phenyl)-amine | 6 mmol, 1.5 g | FC=1C(=C(C=CC1)NC1=C(C=CC=C1)F)[N+](=O)[O-] | C12H8F2N2O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-fluoro-N1-(2-fluorophenyl)benzene-1,2-diamine | 0.5 g, 38% | FC1=C(C(=CC=C1)NC1=C(C=CC=C1)F)N | C12H10F2N2
